* C:\Users\Emanuel\Desktop\DCE-Amplificador-Clase-D\Calculo de realimentador\Simulacion\Draft1.asc
V1 N001 0 V
R1 N001 0 51k
C1 N001 0 C
R2 N001 N002 1.2k
R3 N002 0 2.2k
.dc V1 0 5 1
.backanno
.end
